US05770614
Synthesis of (E)-2-[2-(6-methoxypyridin-2-yloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide (Compound No. 6)
28% sodium methoxide--methanol solution (1.16 g) was added to (E)-2-[2-(6-chloropyridin-2-yloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide (400 mg), and the mixture was heated under reflux with stirring for 4 hours. The mixture was neutralized with 1N hydrochloric acid, and water was added. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried, and the solvent was evaporated. The resulting oil was purified by column chromatography on silica gel to give the title compound (61 mg). mp. 81°-82° C.

reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 1.16 g | CO | CH4O
reactant | (E)-2-[2-(6-chloropyridin-2-yloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide | 400 mg | ClC1=CC=CC(=N1)OCC1=C(C=CC=C1)\C(\C(=O)NC)=N/OC | C16H16ClN3O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
product | (E)-2-[2-(6-methoxypyridin-2-yloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide | 61 mg | COC1=CC=CC(=N1)OCC1=C(C=CC=C1)\C(\C(=O)NC)=N/OC | C17H19N3O4
